US04837241
a: 1-Methyl-1,2,5,6-tetrahydropyridin-3-carboxamide oxime
To a solution of sodium methoxide, prepared from sodium (575 mg; 25 mmol) in methanol (30 ml), hydroxylammonium chloride (1,74 g; 25 mmol) was added. The mixture was stirred at room temperature for 30 min. and filtered. A solution of 1-methyl-3-cyano-1,2,5,6-tetrahydropyridine (Liberatore et al, Tetrahedron Letters 46. 4735 (1968)) (1.65 g; 13.5 mmol) in methanol (20 ml) was added to the filtrate. The reaction was stirred at room temperature for 20 hours and evaporated. The residue was extracted with ethanol (50 ml), filtrated, and evaporated to give the title compound in 25% Yield.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 25 mmol, 575 mg | [Na] | Na
reactant | hydroxylammonium chloride | 25 mmol, 1,74 g | [Cl-].O[NH3+]
reactant | 1-methyl-3-cyano-1,2,5,6-tetrahydropyridine | 13.5 mmol, 1.65 g | CN1CC(=CCC1)C#N | C7H10N2
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 1-Methyl-1,2,5,6-tetrahydropyridin-3-carboxamide oxime | 25% Yield | CN1CC(=CCC1)C(N)=NO | C7H13N3O
